US03941811
Using the same procedure, napthalene- 1,4-diol and 1,4-dihydroxy-2-methyl-naphthalene were oxidized to obtain a 93% yield of 1,4-naphthoquinone and a 97% yield of 2-methyl-1,4-naphthoquinone, respectively.

reactant | napthalene- 1,4-diol | C1(=CC=C(C2=CC=CC=C12)O)O | C10H8O2
reactant | 1,4-dihydroxy-2-methyl-naphthalene | OC1=C(C=C(C2=CC=CC=C12)O)C | C11H10O2
product | 1,4-naphthoquinone | 93% yield | C1(C=CC(C2=CC=CC=C12)=O)=O | C10H6O2
